US08138189B2
Step 5: 4-{5-Chloro-2-fluoro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-fluoro-benzoic acid methyl ester
In analogy to Example 151, step 8, 5-[2-(2-chloro-5-fluoro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with 3-fluoro-4-methoxycarbonylphenylboronic acid, copper-(II)-acetate and pyridine to give the title compound as an off-white solid. MS (m/e)=532.2 [M+H+].

reactant | 5-[2-(2-chloro-5-fluoro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C(=C1)O)F)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C16H14ClF4NO3
reactant | 3-fluoro-4-methoxycarbonylphenylboronic acid | FC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BFO4
catalyst | copper-(II)-acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-{5-Chloro-2-fluoro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-fluoro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC1=C(C=C(C(=C1)Cl)C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C)F)F)=O | C24H19ClF5NO5
